US03943141
b. 1(2-Formyloxyethyl)-1,4-dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide
1(2-Formyloxyethyl)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid (1.3 g) and N,N'-carbonyldiimidazole (0.8 g) in dimethylformamide (25 ml) were heated at 80° for 5 hours. 5-Amino-1H-tetrazole (0.45 g) was added and the mixture was stirred at 80° for 1 hour. The solid was collected and dried, m.p. 268.5°-269° (d), (40%).

reactant | 1(2-Formyloxyethyl)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.3 g | C(=O)OCCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O | C13H12N2O5
reactant | 5-Amino-1H-tetrazole | 0.45 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1(2-Formyloxyethyl)-1,4-dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide | C(=O)OCCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)NC1=NN=NN1 | C14H13N7O4
